US07723332B2
According to general procedure C, 4-Bromo-3-fluoro-benzenesulfonyl chloride (0.40 g, 1.46 mmol) and propylamine (0.30 mL, 3.65 mmol) were stirred together with dry dichloromethane (5 mL) for 16 hours. 4-bromo-3-fluoro-N-propylbenzenesulfonamide (0.39 g, 90%) was provided after purification. HRMS: calcd for C9H11BrFNO2S, 294.96779; found (EI, M+.), 294.9684. HPLC purity 100.0% at 210-370 nm, 10.3 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-3-fluoro-benzenesulfonyl chloride | 1.46 mmol, 0.40 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | propylamine | 3.65 mmol, 0.30 mL | C(CC)N | C3H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromo-3-fluoro-N-propylbenzenesulfonamide | 0.39 g, 90% | BrC1=C(C=C(C=C1)S(=O)(=O)NCCC)F | C9H11BrFNO2S
